US07935674B2
4-Chloro-3-(4-methylphenylmethyl)-1-(β-D-glucopyranosyl)-indole
4-Chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole obtained in Example 1-(3) and 4-methylbenzoyl chloride were treated in a manner similar to Example 2-(4), (5), (6) and (7) to give the titled compound as a colorless powder. APCI-Mass m/Z 418/420 (M+H). 1H-NMR (DMSO-d6) δ 2.25 (s, 3H), 3.21-3.25 (m, 1H), 3.32-3.39 (m, 1H), 3.43-3.47 (m, 2H), 3.61-3.69 (m, 2H), 4.22 (s, 2H), 4.53 (t, J=5.5 Hz, 1H), 5.01 (d, J=5.3 Hz, 1H), 5.15 (d, J=5.0 Hz, 1H), 5.20 (d, J=5.8 Hz, 1H), 5.39 (d, J=9.2 Hz, 1H), 7.06-7.12 (m, 5H), 7.21 (s, 1H), 7.53 (d, J=8.2 Hz, 1H).

reactant | 4-Chloro-1-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyl)indole | ClC1=C2C=CN(C2=CC=C1)[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C22H24ClNO9
reactant | 4-methylbenzoyl chloride | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
product | 4-Chloro-3-(4-methylphenylmethyl)-1-(β-D-glucopyranosyl)-indole | ClC1=C2C(=CN(C2=CC=C1)[C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)CC1=CC=C(C=C1)C | C22H24ClNO5
